US09422279B2
Compound A1 Preparation of 5-[[2-(4-chlorophenyl)pyridin-3-yl]methoxy]-2-methoxypyridine-4-carbaldehyde
Into a 50-mL round-bottom flask, was placed a solution of 3-(chloromethyl)-2-(4-chlorophenyl)pyridine (309 mg, 1.30 mmol, 1.00 equiv), 5-hydroxy-2-methoxypyridine-4-carbaldehyde (200 mg, 1.31 mmol, 1.00 equiv), and potassium carbonate (361 mg, 2.61 mmol, 2.00 equiv) in CH3CN (20 mL). The resulting solution was stirred for 4 h at 70° C., and then it was concentrated under vacuum. The crude product (300 mg) was purified by Prep-HPLC with the following conditions (Prep-HPLC-010): Column, SunFire Prep C18 OBD Column, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and MeCN (20.0% MeCN up to 60.0% in 10 min, up to 95.0% in 2 min, down to 20.0% in 1 min); Detector, Waters 2545 UvDector 254 & 220 nm. This resulted in 148.2 mg (20%) of 5-[[2-(4-chlorophenyl)pyridin-3-yl]methoxy]-2-methoxypyridine-4-carbaldehyde; bis(trifluoroacetic acid) as a yellow solid. 1HNMR (300 MHz, DMSO-d6) δ 10.05 (s, 1H), 8.69 (m, 1H), 8.16 (m, 2H), 7.64 (m, 2H), 7.50 (m, 3H), 5.32 (s, 2H), 3.81 (s, 3H); MS (ESI) m/z 355 [M+H]+.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)pyridine | 1.30 mmol, 309 mg, 1.00 equiv | ClCC=1C(=NC=CC1)C1=CC=C(C=C1)Cl | C12H9Cl2N
reactant | 5-hydroxy-2-methoxypyridine-4-carbaldehyde | 1.31 mmol, 200 mg, 1.00 equiv | OC=1C(=CC(=NC1)OC)C=O | C7H7NO3
reactant | potassium carbonate | 2.61 mmol, 361 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 5-[[2-(4-chlorophenyl)pyridin-3-yl]methoxy]-2-methoxypyridine-4-carbaldehyde | ClC1=CC=C(C=C1)C1=NC=CC=C1COC=1C(=CC(=NC1)OC)C=O | C19H15ClN2O3
